US06469039B1
1-Methyl-2-[N-(4-amidinophenyl)-aminomethyl]-benzimidazol-5-yl-tert.butyl-ketone-hydrochloride
Prepared analogously to Example 25d from 1-methyl-2-[N-(4-cyanophenyl)-aminomethyl]-benzimidazol-5-yl-tert.butyl-ketone, ethanolic hydrochloric acid, ethanol and ammonium carbonate.

reactant | 1-methyl-2-[N-(4-cyanophenyl)-aminomethyl]-benzimidazol-5-yl-tert.butyl-ketone | CN1C(=NC2=C1C=CC(=C2)CC(C)(C)C(=O)C(CC2=CC1=C(N(C(=N1)CNC1=CC=C(C=C1)C#N)C)C=C2)(C)C)CNC2=CC=C(C=C2)C#N | C41H42N8O
reactant | hydrochloric acid | Cl | ClH
reactant | ammonium carbonate | C([O-])([O-])=O.[NH4+].[NH4+]
solvent | ethanol | C(C)O | C2H6O
product | 1-Methyl-2-[N-(4-amidinophenyl)-aminomethyl]-benzimidazol-5-yl-tert.butyl-ketone-hydrochloride | Cl.CN1C(=NC2=C1C=CC(=C2)CC(C)(C)C(=O)C(CC2=CC1=C(N(C(=N1)CNC1=CC=C(C=C1)C(N)=N)C)C=C2)(C)C)CNC2=CC=C(C=C2)C(N)=N | InChI=1S/C41H48N10O.ClH/c1-40(2,21-25-7-17-33-31(19-25)48-35(50(33)5)23-46-29-13-9-27(10-14-29)37(42)43)39(52)41(3,4)22-26-8-18-34-32(20-26)49-36(51(34)6)24-47-30-15-11-28(12-16-30)38(44)45;/h7-20,46-47H,21-24H2,1-6H3,(H3,42,43)(H3,44,45);1H
